US05713988
N1,N1 -bis(2-hydroxyethyl) sulfanilamide was prepared as follows. (This method was taken in part from G. DiModica and E. Angeletti, Gazz. chim. ital., 1960, 90, 434-9 [CA 55:11344d].) A mixture of sodium carbonate (55.6 g), D.I. water (120 mL), and diethanolamine (57.8 g) was stirred and heated to 60°-70° C. Acetylsulfanilyl chloride (116.8 g) was added as a solid over an hour. D.I. water (225 mL) was added in portions during the acetylsulfanilyl chloride addition to keep the mixture stirrable. The mixture was stirred for an additional 3 hours at 60°-70° C., then allowed to cool to room temperature for about 16 hours. The solids were isolated by filtration and washed with 200 mL cold D.I. water.

reactant | sodium carbonate | 55.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | diethanolamine | 57.8 g | N(CCO)CCO | C4H11NO2
reactant | Acetylsulfanilyl chloride | 116.8 g | C(C)(=O)C1=C(S(=O)(=O)Cl)C=CC(=C1)N | C8H8ClNO3S
solvent | water | 225 mL | O | H2O
solvent | water | 120 mL | O | H2O
product | N1,N1 -bis(2-hydroxyethyl) sulfanilamide | OCCN(S(=O)(C1=CC=C(C=C1)N)=O)CCO | C10H16N2O4S
